US08431596B2
Cyclopropanecarboxylic acid [5-(4-piperazin-1-yl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide (WW-151)
A solution of 4-{4-[2-(cyclopropanecarbonyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-5-yl]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester (0.042 g, 0.091 mmol) in trifluoroacetic acid (2 mL) was stirred for 2 h. Saturated sodium hydrogen carbonate was then added and the mixture was extracted with ethyl acetate and dried over magnesium sulfate. After filtration and concentration under reduced pressure the crude product was purified by preparatory HPLC. LCMS method: 2, RT: 1.97 min; MI: 363 [M+1]. NMR 1H (DMSO) 0.79-0.82 (m, 4H), 1.05 (s, 1H), 2.01 (brs, 1H), 3.10-3.16 (m, 4H), 3.38-3.43 (m, 4H), 7.10 (d, 2H), 7.24 (dd, 1H), 7.58 (dd, 1H), 7.65 (t, 1H), 7.99 (d, 2H).

reactant | 4-{4-[2-(cyclopropanecarbonyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-5-yl]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.091 mmol, 0.042 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C25H30N6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Cyclopropanecarboxylic acid [5-(4-piperazin-1-yl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide | N1(CCNCC1)C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C20H22N6O
